US04317830
1-Cyclooctylmethylimidazole
Imidazole (2.0 g, 0.03 mol) was added to a solution of sodium (0.7 g, 0.03 mol) in dry ethanol (50 ml). The mixture was stirred and heated to boiling when bromomethylcyclooctane (5.5 g, 0.027 mol) was added dropwise. Following the addition, the reaction mixture was stirred and boiled for 15 h.

reactant | Imidazole | 0.03 mol, 2.0 g | N1C=NC=C1 | C3H4N2
reactant | sodium | 0.03 mol, 0.7 g | [Na] | Na
reactant | bromomethylcyclooctane | 0.027 mol, 5.5 g | BrCC1CCCCCCC1 | C9H17Br
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-Cyclooctylmethylimidazole | C1(CCCCCCC1)CN1C=NC=C1 | C12H20N2
